US09376449B2
To a mixture of 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (2.11 g), diisopropylethylamine (6.14 mL), methylamine hydrochloride (1.45 g), and N,N-dimethyl formamide (42.2 mL) was added 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (6.82 g), followed by stirring at room temperature overnight. To the mixture was added ice water, followed by extraction with ethyl acetate and further extraction with chloroform/methanol (10:1). The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and then the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 10:1) to obtain 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-N-methyl-1H-indole-2-carboxamide (1.64 g).

reactant | 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 2.11 g | C(C)(=O)NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C14H15FN2O4
reactant | diisopropylethylamine | 6.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 1.45 g | Cl.CN
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 6.82 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 42.2 mL | CN(C=O)C | C3H7NO
product | 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-N-methyl-1H-indole-2-carboxamide | 1.64 g | C(C)(=O)NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)NC | C15H18FN3O3
